US07687491B2
(23h) 1-({5-[5-(3-Fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylic acid
The title compound (90 mg) was synthesized in a yield of 81% as a white crystalline solid using methyl 1-({5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate (0.12 g, 0.27 mmol) that was obtained in Example 23 (23g) and a 1 N aqueous solution of sodium hydroxide (0.81 mL, 0.81 mmol) by conducting the reaction similar to that mentioned in Example 3 (3e).

reactant | methyl 1-({5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate | 0.27 mmol, 0.12 g | FC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1)CN1CC(C1)C(=O)OC | C23H25FN4O3
reactant | sodium hydroxide | 0.81 mmol, 0.81 mL | [OH-].[Na+]
product | 1-({5-[5-(3-Fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylic acid | 90 mg, yield of 81% | FC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1)CN1CC(C1)C(=O)O | C22H23FN4O3
